US04788206
The crude carbinol 3,3-bis[(1,1-biphenyl)-4-yl]-3-hydroxypropanenitrile (13.5 g; 0.036 mol) was dissolved in trifluoroacetic acid (30 mL) and the solution was heated at 65° C. for 10 min. After the solvent was removed in vacuo, the residue was triturated with water and the resulting solids were dissolved in dichloromethane. The dried (MgSO4) solution was evaporated to provide 12.2 g of 3,3-bis[(1,1'-biphenyl)-4-yl]-2-propenenitrile as an oil that was contaminated with a small amount of starting ketone.

reactant | carbinol 3,3-bis[(1,1-biphenyl)-4-yl]-3-hydroxypropanenitrile | 0.036 mol, 13.5 g | C1(=CC=C(C=C1)C(CC#N)(O)C1=CC=C(C=C1)C1=CC=CC=C1)C1=CC=CC=C1.CO
solvent | trifluoroacetic acid | 30 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 3,3-bis[(1,1'-biphenyl)-4-yl]-2-propenenitrile | 12.2 g | C1(=CC=C(C=C1)C(=CC#N)C1=CC=C(C=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H19N
